US05075299
5-p-Methoxybenzyloxy-2-methyl-4-pyrone
5-p-Methoxybenzyloxy-2-chloromethyl-4-pyrone, 10 g, was dissolved in 100 ml of acetone and, 5.5 g of sodium iodide and 11.6 g of triphenylphosphine were added to the solution followed by stirring at room temperature for 3 hours. After completion of the reaction, the reaction liquid was concentrated to dryness and the residue was added to 50 ml of water and 100 ml of dichloromethane. Under ice cooling, the pH was adjusted to 7.0 with saturated sodium hydrogencarbonate aqueous solution and the mixture was stirred at the same temperature for 30 minutes. The organic phase was washed with 20 ml of water. After drying over anhydrous magnesium sulfate, the organic phase was concentrated under reduced pressure and purified by flash column chromatography (eluting solution; chloroform: methanol=20:1) using Wako Gel C-300 (500 g) to give 8.2 g of the title compound.

reactant | 5-p-Methoxybenzyloxy-2-chloromethyl-4-pyrone | COC1=CC=C(COC=2C(C=C(OC2)CCl)=O)C=C1 | C14H13ClO4
reactant | sodium iodide | 5.5 g | [I-].[Na+]
reactant | triphenylphosphine | 11.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 5-p-Methoxybenzyloxy-2-methyl-4-pyrone | 8.2 g | COC1=CC=C(COC=2C(C=C(OC2)C)=O)C=C1 | C14H14O4
